US09353107B2
Step-iii: N-(3-(3-(1-(2,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(3-(3-(1-(2,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide (250 mg, 0.39 mmol) was hydrolyzed with lithium hydroxide (66 mg, 1.57 mmol) in THF/water/methanol (5/4/3 ml) mixture to afford 170 mg (89.94% yield) of the pure product. 1H NMR (DMSO-d6, 300 MHz): δ 11.83 (s, 1H), 8.47-8.32 (m, 3H), 7.97 (s, 1H), 7.799-7.794 (d, 1H), 7.64-7.55 (m, 3H), 7.49-7.44 (m, 3H), 7.32-7.21 (m, 2H), 5.44 (s, 2H), 3.03 (s, 3H) MS: m/z=479.8 (M+1), HPLC: 73.14% in method A.

reactant | N-(3-(3-(1-(2,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 0.39 mmol, 250 mg | FC1=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C=C1)F | C31H25F2N5O4S2
reactant | lithium hydroxide | 1.57 mmol, 66 mg | [OH-].[Li+]
solvent | THF water methanol | 3 ml | C1CCOC1.O.CO
product | N-(3-(3-(1-(2,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 170 mg, 89.94% yield | FC1=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=C(C=C1)F | C24H19F2N5O2S
